US05153203
1-Cyclopropyl-6,8-difluoro-7-(3-oxazolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Compound No. 66)
A mixture of 182 mg of ethyl 1-cyclopropyl-6,8-difluoro-7-(3-oxazolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate, 5 ml of ethanol and 10 ml of 10% aq. sodium carbonate solution was stirred for 1 hour under reflux. The reaction mixture was allowed to cool down and then acidified with acetic acid. Crystals thus precipitated were collected by filtration. They were washed with water and ethanol and then dried, whereby 112 mg of the title compound was obtained.

reactant | ethyl 1-cyclopropyl-6,8-difluoro-7-(3-oxazolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 182 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1COCC1)F)=O)C(=O)OCC | C18H18F2N2O4
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Cyclopropyl-6,8-difluoro-7-(3-oxazolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 112 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1COCC1)F)=O)C(=O)O | C16H14F2N2O4
